US05561150
A solution of 1.4 g (8.04 mmol) of 2-hydroxymethylene-6-methyl-1-indanone, 0.87 g (9.65 mmol) of (RS)-1-hydrazino-2-propanol and 100 mg of p-toluenesulfonic acid in 100 ml of anhydrous toluene was heated on a water separator for 2 hours. After concentration in a vacuum, the reaction mixture was purified by column chromatography on silica gel (ethyl acetate/hexane 4:1). 1.7 g (93%) of (RS)-1-(7-methyl-1,4-dihydro-indeno[2,1-c]pyrazol-1-yl)-propan-2-ol were obtained as a yellow oil which was used directly in the next reaction.

reactant | 2-hydroxymethylene-6-methyl-1-indanone | 8.04 mmol, 1.4 g | OC=C1C(C2=CC(=CC=C2C1)C)=O | C11H10O2
reactant | (RS)-1-hydrazino-2-propanol | 9.65 mmol, 0.87 g | N(N)CC(C)O | C3H10N2O
reactant | water | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-1-(7-methyl-1,4-dihydro-indeno[2,1-c]pyrazol-1-yl)-propan-2-ol | 1.7 g, 93% | CC1=C2C=C3N(N=CC3=C2CC=C1)CC(C)O | C14H16N2O
